US07560558B2
2-Aminobenzaldehyde (118 mg) and 2-bromo-1-(4-fluoro-phenyl)-ethanone (225 mg) were dissolved in methanol (5 ml) to prepare a solution. Sodium hydroxide (100 mg) and water (5 ml) were added to the solution, and the mixture was stirred at room temperature overnight. Dilute hydrochloric acid was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using ethyl acetate-hexane to give 2-(4-fluorophenyl)-quinolin-3-ol (53 mg, yield 22%).

reactant | 2-Aminobenzaldehyde | 118 mg | NC1=C(C=O)C=CC=C1 | C7H7NO
reactant | 2-bromo-1-(4-fluoro-phenyl)-ethanone | 225 mg | BrCC(=O)C1=CC=C(C=C1)F | C8H6BrFO
reactant | Sodium hydroxide | 100 mg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 2-(4-fluorophenyl)-quinolin-3-ol | 53 mg, yield 22% | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C=C1O | C15H10FNO
